US04491581
4-(2,1,3-benzoxadiazol-4-yl)-1,4-dihydro-5-isopropoxycarbonyl-1,6-dimethyl-3-pyridazine carboxylic acid methylester (I R4 =R3 =CH3,R1 =CH3, R2 =isopropyl), [Process (b)]
To the solution of 3.2 g of 4-(2,1,3-benzoxadiazol-4-yl)-1,4-dihydro-5-isopropoxycarbonyl-6-methyl-3-pyridazine carboxylic acid methylester (I R4 =H, R3 =CH3, R1 =CH3, R2 =isopropyl) in 60 ml of dimethyl sulphoxide are added 2.0 g of powdered potassium hydroxide, and then 1.1 ml of methyl iodide are dropwise added. The mixture is stirred for 45 minutes at room temperature, and is then poured into 120 ml of ice water and extracted with methylene chloride. The product obtained after drying the methylene chloride solution over magnesium sulphate and evaporating under vacuum is purified by chromatography on silica gel. After elution with methylene chloride - ether mixtures and subsequent crystallization from ether - petroleum ether, the pure substance is obtained with a m.p. of 107° .

reactant | 4-(2,1,3-benzoxadiazol-4-yl)-1,4-dihydro-5-isopropoxycarbonyl-6-methyl-3-pyridazine carboxylic acid methylester | 3.2 g | COC(=O)C1=NNC(=C(C1C1=CC=CC2=NON=C21)C(=O)OC(C)C)C | C17H18N4O5
reactant | potassium hydroxide | 2.0 g | [OH-].[K+]
reactant | methyl iodide | 1.1 ml | CI | CH3I
solvent | dimethyl sulphoxide | 60 ml | CS(=O)C | C2H6OS
product | 4-(2,1,3-benzoxadiazol-4-yl)-1,4-dihydro-5-isopropoxycarbonyl-1,6-dimethyl-3-pyridazine carboxylic acid methylester | COC(=O)C1=NN(C(=C(C1C1=CC=CC2=NON=C21)C(=O)OC(C)C)C)C | C18H20N4O5
